US06599590B2
A Grignard reagent prepared from dried magnesium and 50 g (0.26 mol) of 1-bromo-3,5-diflorobenzene in THF was added dropwide at room temperature to a solution of 34 g (0.22 mol) of cyclohexanedion monoethylene ketal in 500 ml of THF and the mixture was stirred for 5 hours. The reaction solution was added to 500 ml of a saturated ammonium chloride and the mixture was stirred. The reaction product was extracted with ether. The extract was dried over magnesium sulfate and the solvent was distilled off. The residue and 2 g of p-toluenesulfonic acid were added to 300 ml of toluene, and the mixture was refluxed for 3 hours, while removing the produced water using Dean-Stark. The reaction solution was washed successively with water, a saturated aqueous sodium carbonate and water, dried over magnesium sulfate, and then the solvent was distilled off. The residue was purified by column chromatography on silica gel (eluting solvent: heptane/ethyl acetate=3/1), and the solvent was distilled off under reduced pressure. The residue thus obtained was hydrogenated in ethanol in the presence of 2 g of 5% palladium/carbon. The catalyst was filtered off and then the solvent was distilled off to afford 31 g (0.12 mol) of 4-(3,5-difluorophenyl)-cyclohexanone mono-ethylene ketal.

reactant | magnesium | [Mg] | Mg
reactant | 1-bromo-3,5-diflorobenzene | 0.26 mol, 50 g | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | cyclohexanedion monoethylene ketal | 0.22 mol, 34 g | C1COC2(C(CCCC2)=O)O1 | C8H12O3
reactant | ammonium chloride | 500 ml | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium/carbon | 2 g | [Pd] | Pd
product | 4-(3,5-difluorophenyl)-cyclohexanone mono-ethylene ketal | 0.12 mol, 31 g, Yield: 55% | C1COC2(CCC(CC2)C2=CC(=CC(=C2)F)F)O1 | C14H16F2O2
